US05455274
A stirred solution of 4-hydroxy-3-methoxy-benzoic acid (5 g, 29.7 mmol) in 35 mL of dichloromethane is treated with thionyl chloride (20 mL, 377 mmol) and N,N-dimethylformamide (1.0 mL, 12.9 mmol). This solution is refluxed for 45 minutes and concentrated in vacuo. The resulting material is dissolved in 125 mL of dichloromethane and treated with diisopropylamine (20 mL, 143 mmol). After stirring at room temperature for 5 minutes, the reaction is diluted with ethyl acetate and filtered. The filtrate is washed with 1N hydrochloride solution, and brine, dried over magnesium sulfate, and concentrated in vacuo to afford 4-hydroxy-3-methoxy-N,N-bis(1-methylethyl)benzamide as a colorless solid.

reactant | 4-hydroxy-3-methoxy-benzoic acid | 29.7 mmol, 5 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
reactant | thionyl chloride | 377 mmol, 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 12.9 mmol, 1.0 mL | CN(C=O)C | C3H7NO
reactant | diisopropylamine | 143 mmol, 20 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-3-methoxy-N,N-bis(1-methylethyl)benzamide | OC1=C(C=C(C(=O)N(C(C)C)C(C)C)C=C1)OC | C14H21NO3
